US04029676
(b). trans-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol
A solution of 8.0 g of 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol in 100 ml of tetrahydrofuran is cooled to 0° C. and 20 ml of water and 0.5 ml of 70% perchloric acid are added. After 4 hours, a further 1.5 ml of acid is added and the solution is stirred for 16 hours at ambient temperature and diluted with 100 ml each of ether, 10% sodium bicarbonate and saturated salt solution. The aqueous layer is separated and washed with 150 ml of 1:1 ether-tetrahydrofuran. The organic phase is washed with saturated salt solution, dried and evaporated to give an oil which solidifies on trituration with chloroform. Recrystallization gives in two crops, 4.85 g of solid which is recrystallized from ethyl acetate to give 3.84 g, melting point 179.5°-181.5° C. Two further recrystallizations of a small sample give the analytical specimen, melting point 183°-184° C.

reactant | 5,6,7,8-tetrahydro-6,7-epoxy-1-naphthol | 8.0 g | O1C2CC=3C=CC=C(C3CC21)O | C10H10O2
reactant | water | 20 ml | O | H2O
reactant | perchloric acid | 0.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | trans-5,6,7,8-Tetrahydro-1,6,7-naphthalenetriol | 4.85 g | C1(=CC=CC=2C[C@H]([C@@H](CC12)O)O)O | C10H12O3
